US07199150B2
(2a) (2R)-2-t-Butoxycarbonylamino-3-n-hexanoyloxy-2-methyl-1-propanol
To a suspension of 2-t-butoxycarbonylamino-2-methylpropane-1,3-diol (20.0 g, 97.4 mmol) in isopropyl ether (200 ml) were added successively vinyl hexanoate (16.3 ml, 0.10 mol) and lipase [Immobilized lipase from Pseudomonas sp., TOYOBO, 0.67 U/mg] (0.8 g) with stirring, and the resulting mixture was stirred at room temperature for 2 hours. After stirring, the reaction mixture was filtered and evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethyl acetate (10:1–2:1) as the eluent to afford the title compound (25.0 g, yield: 85%).

reactant | 2-t-butoxycarbonylamino-2-methylpropane-1,3-diol | 97.4 mmol, 20.0 g | C(C)(C)(C)OC(=O)NC(CO)(CO)C | C9H19NO4
reactant | vinyl hexanoate | 0.10 mol, 16.3 ml | C(CCCCC)(=O)OC=C | C8H14O2
solvent | isopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
product | (2R)-2-t-Butoxycarbonylamino-3-n-hexanoyloxy-2-methyl-1-propanol | 25.0 g, yield: 85% | C(C)(C)(C)OC(=O)N[C@](CO)(COC(CCCCC)=O)C | C15H29NO5
